US07179941B2
a) N-(2-Fluoro-5-nitrophenyl)acetamide
5.0 g (32 mmol) of 2-fluoro-5-nitroaniline were admixed with 10 ml (110 mmol) of acetic anhydride and 0.1 ml of conc. sulfuric acid and stirred at 100° C. for 1.5 hours. The solution was added to 100 ml of ice/water, and the precipitate which formed was filtered off and washed with water. The crude product was purified by chromatography (1:1 ethyl acetate/heptane) on silica gel (yield 5.4 g, 85%).

reactant | 2-fluoro-5-nitroaniline | 32 mmol, 5.0 g | FC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | acetic anhydride | 110 mmol, 10 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
product | N-(2-Fluoro-5-nitrophenyl)acetamide | FC1=C(C=C(C=C1)[N+](=O)[O-])NC(C)=O | C8H7FN2O3
